US07943651B2
N-(2-Amino-2-oxoethyl)-3-(4-{[4-(5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)-N-methylbenzamide
N-(2-Amino-2-oxoethyl)-3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)-N-methylbenzamide (55.1 mg, 0.0875 mmol) was dissolved in anhydrous dichloromethane (0.2 mL) and cooled to −78° C. (cardice/acetone bath) under nitrogen. Boron tribromide (1.0M in dichloromethane) (0.435 mL, 0.435 mmol) was then added portionwise and after 5 minutes the mixture was allowed to warm to room temperature. The reaction was stirred at room temperature for 6 hours, re-cooled to −78° C. and quenched with methanol (1 mL). The reaction was warmed to room temperature when more dichloromethane (1 mL) and aqueous saturated sodium hydrogen carbonate solution (2 mL) were added and the mixture stirred vigorously and then poured onto a hydrophobic frit and the dichloromethane layer collected and evaporated in vacuo. This crude product was purified by mass-directed autopreparation (System B). Product containing fractions were combined and partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The aqueous layer was re-extracted twice more with dichloromethane and the combined organic extracts were washed successively water and brine, dried through a hydrophobic frit and evaporated in vacuo to give the title compound (17.2 mg).

reactant | N-(2-Amino-2-oxoethyl)-3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)-N-methylbenzamide | 0.0875 mmol, 55.1 mg | NC(CN(C(C1=CC(=CC=C1)N1N=CC2=C(C=C(C=C12)C)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O)=O)C)=O | C32H35F4N5O4
reactant | cardice acetone | C(=O)=O.CC(=O)C
reactant | Boron tribromide | 0.435 mmol, 1.0M, 0.435 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 0.2 mL | ClCCl | CH2Cl2
product | N-(2-Amino-2-oxoethyl)-3-(4-{[4-(5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)-N-methylbenzamide | 17.2 mg | NC(CN(C(C1=CC(=CC=C1)N1N=CC2=C(C=C(C=C12)C)NCC(CC(C)(C)C1=C(C=CC(=C1)F)O)(C(F)(F)F)O)=O)C)=O | C31H33F4N5O4
